US07846960B2
2-Butyrylamino-4-methyl-benzoic Acid Methyl Ester
To a 0° C. solution of 2-amino-4-methyl-benzoic acid methyl ester (1.5 g, 9.0 mmol) and triethylamine (1.4 g, 13.5 mmol) in methylene chloride (30.0 mL) is added butyryl chloride (1.2 g, 10.8 mmol) dropwise. The mixture is stirred at 0° C. for 30 min and is quenched with saturated sodium bicarbonate (10 mL). The organic phase is washed with brine (20 mL), dried (Na2SO4), filtered, and concentrated under reduced pressure to a residue. The residue is purified by flash chromatography to afford the title compound as syrup (2.2 g, 100%). LC-ES/MS m/e 236.3 (M+1).

reactant | 2-amino-4-methyl-benzoic acid methyl ester | 9.0 mmol, 1.5 g | COC(C1=C(C=C(C=C1)C)N)=O | C9H11NO2
reactant | triethylamine | 13.5 mmol, 1.4 g | C(C)N(CC)CC | C6H15N
reactant | butyryl chloride | 10.8 mmol, 1.2 g | C(CCC)(=O)Cl | C4H7ClO
solvent | methylene chloride | 30.0 mL | C(Cl)Cl | CH2Cl2
product | 2-Butyrylamino-4-methyl-benzoic Acid Methyl Ester | 2.2 g, 100% | COC(C1=C(C=C(C=C1)C)NC(CCC)=O)=O | C13H17NO3
